US05068334
3-Methyl-3,4,7,8-tetrahydro-2,5(1H,6H)-quinolinedione
Prepared analogously to Example G from 1-amino- cyclohexen-3-one and methacrylic acid in an autoclave for a period of one hour at 180° C. Recrystallisation is from methanol and subsequently from a mixture of ethyl acetate/ethanol (3:1).

reactant | 1-amino- cyclohexen-3-one | NC1=CC(CCC1)=O | C6H9NO
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
product | 3-Methyl-3,4,7,8-tetrahydro-2,5(1H,6H)-quinolinedione | CC1C(NC=2CCCC(C2C1)=O)=O | C10H13NO2
